US07705018B2
A mixture of (2-(2-chlorophenyl)-8-methylquinolin-3-yl)methanamine (0.050 g, 0.18 mmol), and 4,5-dichloro-2-aminopyrimidine (0.029 g, 0.18 mmol, 1 eq) were stirred in 1-pentanol (0.9 mL) at 80° C. for 4 days. After purification, 5-chloro-N4-((2-(2-chlorophenyl)-8-methylquinolin-3-yl)methyl)pyrimidine-2,4-diamine [PI3Kδ IC50=165 nM] was obtained as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.18 (1H, s), 7.86 (1H, d, J=7.8 Hz), 7.72 (1H, s), 7.45-7.64 (7H, m), 7.28 (1H, t, J=5.9 Hz), 6.02 (2H, s), 4.46 (2H, d, J=18.8 Hz), 2.65 (3H, s) Mass Spectrum (ESI) m/e=410.0 and 412.1 (M+1)

reactant | (2-(2-chlorophenyl)-8-methylquinolin-3-yl)methanamine | 0.18 mmol, 0.050 g | ClC1=C(C=CC=C1)C1=NC2=C(C=CC=C2C=C1CN)C | C17H15ClN2
reactant | 4,5-dichloro-2-aminopyrimidine | 0.18 mmol, 0.029 g, 1 eq | ClC1=NC(=NC=C1Cl)N | C4H3Cl2N3
solvent | 1-pentanol | 0.9 mL | C(CCCC)O | C5H12O
product | 5-chloro-N4-((2-(2-chlorophenyl)-8-methylquinolin-3-yl)methyl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)N)NCC=1C(=NC2=C(C=CC=C2C1)C)C1=C(C=CC=C1)Cl | C21H17Cl2N5
